US06020342
To a mixture of 8.2 g of 2-methyl-3-(2-thienyl)acrylic acid and 9.5 ml of triethylamine in 45 ml of acetone was added dropwise 7.2 ml of ethyl chlorocarbonate over a period of 30 minutes under ice-cooling with stirring. After being stirred for 1 hour, a solution of 5.1 g of sodium azide in 10 ml of water was added dropwise over 30 minutes, and then stirred for 1 hour. The reaction mixture was poured into water and extracted with benzene. The extract was washed with water and saturated saline, and dried over anhydrous magnesium sulfate. Drying agent was removed by filtration, and the solvent was removed under reduced pressure, and then 15 ml of diphenylether was added to the residue. The resultant solution was added dropwise to a mixture of 14 ml of tri-n-butylamine and 35 ml of diphenylether at 200° C. When addition was complete, the reaction mixture was allowed to cool and the crystalline precipitate was washed with diethyl ether to give 6.2 g of 6-methylthieno[3,2-c]pyridin-4(5H)-one as a pale yellow powder.

reactant | 2-methyl-3-(2-thienyl)acrylic acid | 8.2 g | CC(C(=O)O)=CC=1SC=CC1 | C8H8O2S
reactant | triethylamine | 9.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 7.2 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium azide | 5.1 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 45 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 6-methylthieno[3,2-c]pyridin-4(5H)-one | 6.2 g | CC1=CC2=C(C(N1)=O)C=CS2 | C8H7NOS
